US07932393B2
A stirred mixture of 6.0 grams (0.03 mole) of 2-{[(6-chloro(3-pyridyl))methyl]amino}ethan-1-ol (known compound), 4.6 grams (0.033 mole) of 2-bromoethyl methyl ether and 5.8 grams (0.045 mole) if diisopropylethylamine in 120 mL of 1,4-dioxane was heated at 95° C. for 36 hours. After this time the reaction mixture was cooled to ambient temperature and was concentrated under reduced pressure to a residue. The residue was purified by column chromatography on silica gel, eluting with a mixture of methanol and methylene chloride. The appropriate fractions were combined and concentrated under reduced pressure, yielding 4.3 grams of 2-{[(6-chloro(3-pyridyl))methyl](2-methoxyethyl)amino}ethan-1-ol as an oil. The NMR spectrum was consistent with the proposed structure.

reactant | 2-{[(6-chloro(3-pyridyl))methyl]amino}ethan-1-ol | 0.03 mole, 6.0 grams | ClC1=CC=C(C=N1)CNCCO | C8H11ClN2O
reactant | 2-bromoethyl methyl ether | 0.033 mole, 4.6 grams | COCCBr | C3H7BrO
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 2-{[(6-chloro(3-pyridyl))methyl](2-methoxyethyl)amino}ethan-1-ol | 4.3 grams | ClC1=CC=C(C=N1)CN(CCO)CCOC | C11H17ClN2O2
